US09260416B2
Step 1: 5-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-nicotinic acid methyl ester
5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid methyl ester (0.100 g, 0.3 mmol), 4-bromo-1-methyl-1H-pyrazole (0.0966 mL, 0.9 mmol), copper(II) oxide (0.048 g, 0.6 mmol) and potassium carbonate (0.054 g, 0.39 mmol) were combined in pyridine (1 mL) in a sealed vial. The reaction was heated to 150° C. overnight then cooled, then diluted with EtOAc. The mixture was washed with HCl (1 M aq.) and brine, and the organic portion was dried and concentrated to yield the title compound as a crude mixture that was used directly in the next step.

reactant | 5-(6-Chloro-2-methyl-1H-indol-3-ylsulfanyl)-nicotinic acid methyl ester | 0.3 mmol, 0.100 g | COC(C1=CN=CC(=C1)SC1=C(NC2=CC(=CC=C12)Cl)C)=O | C16H13ClN2O2S
reactant | 4-bromo-1-methyl-1H-pyrazole | 0.9 mmol, 0.0966 mL | BrC=1C=NN(C1)C | C4H5BrN2
reactant | potassium carbonate | 0.39 mmol, 0.054 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | copper(II) oxide | 0.6 mmol, 0.048 g | [Cu]=O
product | 5-[6-Chloro-2-methyl-1-(1-methyl-1H-pyrazol-4-yl)-1H-indol-3-ylsulfanyl]-nicotinic acid methyl ester | COC(C1=CN=CC(=C1)SC1=C(N(C2=CC(=CC=C12)Cl)C=1C=NN(C1)C)C)=O | C20H17ClN4O2S
